US09193692B2
F. 2-Methyl-6-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline
4-Bromo-2-methyl-6-nitroaniline (5 g, 21.64 mmol), bis(pinacolato)diboron (5.50 g, 21.64 mmol), potassium acetate (6.37 g, 64.9 mmol) and N,N-dimethylformamide (100 mL) were combined and degassed under vacuum. Palladium acetate (0.243 g, 1.082 mmol) was added and the system was degassed again. The reaction was heated to 90° C. for 2 h. The reaction was extracted with water and dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography (0-30% ethyl acetate in hexanes) to give a yellow solid (5.3 g, 19.0 mmol, 88% yield). MS (ESI) m/z 279.0 [M+1]+.

reactant | 4-Bromo-2-methyl-6-nitroaniline | 21.64 mmol, 5 g | BrC1=CC(=C(N)C(=C1)[N+](=O)[O-])C | C7H7BrN2O2
reactant | bis(pinacolato)diboron | 21.64 mmol, 5.50 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 64.9 mmol, 6.37 g | C(C)(=O)[O-].[K+]
catalyst | Palladium acetate | 1.082 mmol, 0.243 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2-Methyl-6-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 19.0 mmol, 5.3 g, 88% yield | CC1=C(N)C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)[N+](=O)[O-] | C13H19BN2O4
